US08664210B2
(E)-3-(2-Aminoethoxyimino)-4-methylandrost-4-en-17β-ol hydrochloride (I-aa)
To a stirred solution of 4-methyltestosterone (203 mg) in dioxane (3.7 ml), a solution of 2-aminoethoxyamine dihydrochloride (259 mg) in water (2 ml) was rapidly added dropwise. After 24 h dioxane (20 ml) and brine (10 ml) were added and the mixture was stirred for 10 min. The phases were separated and the aqueous phase was extracted with dioxane (2×). The combined organic extracts were washed with brine, dried over MgSO4, filtered and evaporated to dryness. The residue was triturated with Et2O for 5 h and the precipitate was filtered. The crude product was dissolved in water and freeze-dried to give the title compound (I-aa) as a white solid (197 mg, 74%).

reactant | 4-methyltestosterone | 203 mg | CC1=C2CC[C@H]3[C@@H]4CC[C@@H]([C@]4(CC[C@@H]3[C@]2(CCC1=O)C)C)O | C20H30O2
reactant | 2-aminoethoxyamine dihydrochloride | 259 mg | Cl.Cl.NCCON
solvent | dioxane | 3.7 ml | O1CCOCC1 | C4H8O2
solvent | water | 2 ml | O | H2O
solvent | brine | 10 ml | [Cl-].[Na+].O
solvent | dioxane | 20 ml | O1CCOCC1 | C4H8O2
product | (E)-3-(2-Aminoethoxyimino)-4-methylandrost-4-en-17β-ol hydrochloride | 197 mg, 74% | Cl.NCCO\N=C/1\C(=C2CC[C@H]3[C@@H]4CC[C@@H]([C@@]4(C)CC[C@@H]3[C@]2(CC1)C)O)C | InChI=1S/C22H36N2O2.ClH/c1-14-16-5-4-15-17-6-7-20(25)22(17,3)10-8-18(15)21(16,2)11-9-19(14)24-26-13-12-23;/h15,17-18,20,25H,4-13,23H2,1-3H3;1H/b24-19+;/t15-,17-,18-,20-,21-,22-;/m0./s1
